US08791132B2
2,6-Dimethyl-2,3,4,9-tetrahydro-1H-β-carboline (500 mg, 2.5 mmol) was dissolved in 20 mL DMF and stirred for 10 min at RT. Sodium hydride (180 mg, 7.5 mmol) was added portionwise at RT and the mixture stirred for 10 min. 2-(2-Methyl-oxiranyl)-pyridine (472 mg, 3.5 mmol) was added dropwise at the same temperature and stirred for 12 h at RT. The reaction was monitored by TLC & LCMS. After consumption of starting material, the reaction mixture was quenched with ice water and extracted with EtOAc (3×100 mL). The combined organic layer was washed with water (3×100 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated and the residue was crystallized in hexane to obtain 115 mg of 1-(2,6-dimethyl-1,2,3,4-tetrahydro-β-carbolin-9-yl)-2-pyridin-2-yl-propan-2-ol. 1HNMR (CDCl3, freebase) δ (ppm): 8.51 (d,1H), 7.65 (t,1H), 7.29 (d, 1H), 7.22 (d,1H), 7.20 (s,1H), 6.95 (d,1H), 6.85 (d, 1H), 4.9 (bs,1H), 4.18 (s, 2H), 3.21 (dd, 2H), 2.77 (m, 2H), 2.69 (m, 2H), 2.42 (d, 6H), 1.63 (s, 3H). Separation by chiral HPLC provided enantiomers 16a and 16b. Optical rotations: Compound 16a, (−)5.77(c 0.52, Chloroform, 98.11% HPLC purity); Compound 16b, (+)5.85 (c 0.51, Chloroform, 98.06% HPLC purity).

reactant | 2,6-Dimethyl-2,3,4,9-tetrahydro-1H-β-carboline | 2.5 mmol, 500 mg | CN1CC=2NC3=CC=C(C=C3C2CC1)C | C13H16N2
reactant | Sodium hydride | 7.5 mmol, 180 mg | [H-].[Na+]
reactant | 2-(2-Methyl-oxiranyl)-pyridine | 3.5 mmol, 472 mg | CC1(OC1)C1=NC=CC=C1 | C8H9NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1-(2,6-dimethyl-1,2,3,4-tetrahydro-β-carbolin-9-yl)-2-pyridin-2-yl-propan-2-ol | 115 mg | CN1CC=2N(C3=CC=C(C=C3C2CC1)C)CC(C)(O)C1=NC=CC=C1 | C21H25N3O
